US06294580B1
[2-(4-fluoro-phenyl)-5-methyl-oxazol-4-yl]-acetic acid methyl ester
A solution of 667 mg (4.80 mmol) of 4-fluorobenzamide and 1.0 g (4.80 mmol) of methyl 4-bromo-3-oxo-pentanoate in 6 mL of dry toluene was heated at 120° C. for 16 h. The resulting dark slurry was cooled to RT, diluted with 10 mL of EtOAc, and washed with NaHCO3 (1×10 mL). The organic layer was separated, dried (MgSO4), and the solvents removed in vacuo. Purification of the material by silica gel flash column chromatography using hexane/EtOAc 4/1 as eluent to afford 308 mg of the title compound as a clear oil: 1H NMR (CDCl3, 400 MHz) δ 7.97 (m, 2H), 7.11 (m, 2H), 3.73 (s, 3H), 3.56 (s, 2H), 2.36 (s, 3H).

reactant | 4-fluorobenzamide | 4.80 mmol, 667 mg | FC1=CC=C(C(=O)N)C=C1 | C7H6FNO
reactant | methyl 4-bromo-3-oxo-pentanoate | 4.80 mmol, 1.0 g | BrC(C(CC(=O)OC)=O)C | C6H9BrO3
solvent | toluene | 6 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
product | [2-(4-fluoro-phenyl)-5-methyl-oxazol-4-yl]-acetic acid methyl ester | 308 mg | COC(CC=1N=C(OC1C)C1=CC=C(C=C1)F)=O | C13H12FNO3
